### PR TITLE
[Merged by Bors] - chore(Analysis/LocallyConvex): add missing lemmas

### PR DESCRIPTION
**Pull request by mcdoll**
Co-authored-by: Anatole Dedecker <anatolededecker@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/LocallyConvex/WithSeminorms.lean [hunk 1]
```diff
@@ -305,14 +305,31 @@ theorem PolynormableSpace.withSeminorms [PolynormableSpace 𝕜 E] :
     WithSeminorms (fun p : {p : Seminorm 𝕜 E // Continuous p} ↦ p.1) :=
   PolynormableSpace.withSeminorms'
 
-theorem WithSeminorms.topologicalAddGroup (hp : WithSeminorms p) : IsTopologicalAddGroup E := by
+theorem WithSeminorms.isTopologicalAddGroup (hp : WithSeminorms p) : IsTopologicalAddGroup E := by
   rw [hp.withSeminorms_eq]
   exact AddGroupFilterBasis.isTopologicalAddGroup _
 
+@[deprecated (since := "2026-08-17")] alias WithSeminorms.topologicalAddGroup :=
+  WithSeminorms.isTopologicalAddGroup
```
Comment (themathqueen) [inline Mathlib/Analysis/LocallyConvex/WithSeminorms.lean]: I think this might already be in anatole's PR? (edit: yup, it is, #43027)

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by faenuccio** [comment]
thanks

bors r+
